* tb_comp_load_step.spice — Load step transient: 1mA→10mA and 10mA→1mA

* Parasitic model for poly resistor
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub 0.05f
c1 r1 sub 0.05f
.ends sky130_fd_pr__model__parasitic__res_po

.lib "../sky130.lib.spice" tt
.temp 27

.include "../00_error_amp/design.cir"
.include "../01_pass_device/design.cir"
.include "design.cir"

* Supplies
Vbvdd bvdd 0 DC 7.0
Vavbg avbg 0 DC 1.226
Ven   en   0 DC 5.0
Ibias bvdd ibias DC 1u

* Error amplifier
Xea avbg vfb vout_gate bvdd 0 ibias en error_amp

* Compensation
Xcomp vout_gate pvdd 0 compensation

* Pass device
Xpass vout_gate bvdd pvdd pass_device

* Load cap
Cload pvdd 0 200p

* Feedback divider (closed loop)
Rtop pvdd vfb 314.75k
Rbot vfb 0 102.25k

* Load current step: 1mA for 50u, ramp to 10mA in 1us, hold 30u, ramp back in 1us
Iload pvdd 0 PWL(0 1m 49u 1m 50u 10m 79u 10m 80u 1m 120u 1m)

.nodeset v(pvdd)=5.0 v(vout_gate)=5.5 v(vfb)=1.226

.option reltol=1e-4 abstol=1e-12 vntol=1e-6 gmin=1e-12 method=gear

.control
  tran 10n 120u

  * Find undershoot (1mA→10mA step at t=10u)
  * pvdd should be ~5V. Find min after t=10u
  let pvdd_trace = v(pvdd)
  let npts = length(pvdd_trace)
  let vmin = 5.0
  let vmax = 5.0
  let i = 0

  * Find min pvdd after t=50u (undershoot from 1→10mA step)
  dowhile i < npts
    if time[i] > 50e-6
      if time[i] < 75e-6
        if pvdd_trace[i] < vmin
          let vmin = pvdd_trace[i]
        end
      end
    end
    let i = i + 1
  end

  * Find max pvdd after t=80u (overshoot from 10→1mA step)
  let i = 0
  dowhile i < npts
    if time[i] > 80e-6
      if time[i] < 110e-6
        if pvdd_trace[i] > vmax
          let vmax = pvdd_trace[i]
        end
      end
    end
    let i = i + 1
  end

  * Get steady-state PVDD
  let pvdd_ss = pvdd_trace[npts-1]

  let undershoot = (5.0 - vmin) * 1000
  let overshoot = (vmax - 5.0) * 1000

  echo "=== Load Step Results ==="
  echo "pvdd_ss    = $&pvdd_ss V"
  echo "pvdd_min   = $&vmin V (during 1→10mA step)"
  echo "pvdd_max   = $&vmax V (during 10→1mA step)"
  echo "transient_undershoot_mV: $&undershoot"
  echo "transient_overshoot_mV: $&overshoot"

  * Check for oscillation: count zero-crossings around steady state after settling
  let osc_count = 0
  let settled_val = 5.0
  let i = 0
  let prev_above = 1
  dowhile i < npts
    if time[i] > 100e-6
      if pvdd_trace[i] > settled_val
        if prev_above = 0
          let osc_count = osc_count + 1
          let prev_above = 1
        end
      end
      if pvdd_trace[i] < settled_val
        if prev_above = 1
          let prev_above = 0
        end
      end
    end
    let i = i + 1
  end

  if osc_count < 3
    echo "no_oscillation: 1"
  else
    echo "no_oscillation: 0"
    echo "oscillation_count: $&osc_count"
  end

  * Settling time: time for pvdd to be within 1% of final after step
  * Check 10mA→1mA step at t=80u
  let settle_thr = pvdd_ss * 0.01
  let settle_time = 40e-6
  let i = npts - 1
  dowhile i > 0
    if time[i] > 80e-6
      let err = abs(pvdd_trace[i] - pvdd_ss)
      if err > settle_thr
        let settle_time = time[i] - 80e-6
        let i = 0
      end
    end
    let i = i - 1
  end
  let settle_us = settle_time * 1e6
  echo "settling_time_us: $&settle_us"

  wrdata load_step.dat pvdd_trace

  quit
.endc

.end
